US08084448B2
C. 2,6-Bis-benzyloxybenzaldehyde
To a solution of (2,6-bis-benzyloxyphenyl)-methanol (3.0 g) in methylene chloride (40 mL) is added Dess-Martin reagent (1.5 equivalents, 15% by weight in methylene chloride) and the mixture is stirred at RT for 30 min. Saturated NaHCO3 is added and the organic phase is washed with water and brine then is dried over sodium sulfate. The solvent is removed under reduced pressure and the residue is purified by flash chromatography using hexane/EtOAc (7:1) as eluent to give the title compound as a reddish liquid.

reactant | (2,6-bis-benzyloxyphenyl)-methanol | 3.0 g | C(C1=CC=CC=C1)OC1=C(C(=CC=C1)OCC1=CC=CC=C1)CO | C21H20O3
reactant | Dess-Martin reagent | 1.5 equivalents | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | 2,6-Bis-benzyloxybenzaldehyde | C(C1=CC=CC=C1)OC1=C(C=O)C(=CC=C1)OCC1=CC=CC=C1 | C21H18O3
